US06080754
2-(4-Benzyloxyphenyl)-8-(tert-butyldimethylsilanyloxymethyl)-1-ethylindolizine was reacted with 3-butyn-2-one by the general synthetic principles outlined in example 73, step 1, to afford 4-acetyl-2-(4-benzyloxyphenyl)-7-(tert-butyldimethylsilanyloxymethyl)-1-ethylpyrrolo[2,1,5-cd]indolizine as a brown oil in 70% yield. 1H--NMR (DMSO-d6, 200 MHz) δ: 0.13 (s, 6 H); 0.89 (s, 9 H); 1.37 (t, 3 H); 2.64 (s, 3 H); 3.18 (q, 2 H); 5.20 (s, 2 H); 5.32 (s, 2 H); 7.12-7.54 (m, 7 H); 7.73 (d, 2 H); 7.94 (d, 1 H); 8.18 (s, 1 H); 8.34 (d, 1 H).

reactant | 2-(4-Benzyloxyphenyl)-8-(tert-butyldimethylsilanyloxymethyl)-1-ethylindolizine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C(=C2C(=CC=CN2C1)CO[Si](C)(C)C(C)(C)C)CC | C30H37NO2Si
reactant | 3-butyn-2-one | CC(C#C)=O | C4H4O
product | 4-acetyl-2-(4-benzyloxyphenyl)-7-(tert-butyldimethylsilanyloxymethyl)-1-ethylpyrrolo[2,1,5-cd]indolizine | 70% yield | C(C)(=O)C=1C=C2C(=C(C3=C(C=CC1N23)CO[Si](C)(C)C(C)(C)C)CC)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C34H39NO3Si
